US06960598B2
5-Chloro-2-trifluoromethyl[1,8]naphthyridine (50 mg, 0.22 mmol) was coupled to 3′-fluoro-5′-(4,4,5,5-tetramethyl[1,3,2]dioxaborolan-2-yl)biphenyl-2-carbonitrile (90 mg, 0.28 mmol) as described in Example 7 part g), affording 3′-fluoro-5′-(7-trifluoromethyl[1,8]naphthyridin-4-yl)biphenyl-2-carbonitrile (30 mg, 35%). δH (360 MHz, CDCl3) 7.32-7.36 (1H, m), 7.41-7.44 (1H, m), 7.50-7.59 (3H, m), 7.64 (1H, d, J 4.6), 7.72 (1H, td, J 7.7 and 1.4), 7.85 (1H, dd, J 7.7 and 0.7), 7.90 (1H, d, J 8.8), 8.75 (1H, d, J 8.8), 9.30 (1H, d, J 4.2). m/z (ES+) 394 [MH]+.

reactant | 5-Chloro-2-trifluoromethyl[1,8]naphthyridine | 0.22 mmol, 50 mg | ClC1=C2C=CC(=NC2=NC=C1)C(F)(F)F | C9H4ClF3N2
reactant | 3′-fluoro-5′-(4,4,5,5-tetramethyl[1,3,2]dioxaborolan-2-yl)biphenyl-2-carbonitrile | 0.28 mmol, 90 mg | FC=1C=C(C=C(C1)B1OC(C(O1)(C)C)(C)C)C=1C(=CC=CC1)C#N | C19H19BFNO2
product | 3′-fluoro-5′-(7-trifluoromethyl[1,8]naphthyridin-4-yl)biphenyl-2-carbonitrile | 30 mg, 35% | FC=1C=C(C=C(C1)C1=CC=NC2=NC(=CC=C12)C(F)(F)F)C=1C(=CC=CC1)C#N | C22H11F4N3
